US07329676B2
42. (±)-4-[(2RS,4aRS,10bRS)-2-Acetoxy-9-(1,1-difluoro-methoxy)-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl]-benzoic acid methyl ester
500 mg of (±)-N-{(1RS,2RS,4RS)-4-acetoxy-2-[3-(1,1-difluoro-methoxy)-4-methoxy-phenyl]-cyclohexyl}-terephthalamic acid methyl ester (compound A35) are dissolved in 2 ml of phosphorus oxychloride and heated for 4.5 h at 100° C. After cooling to room temperature the sample is diluted with 10 ml of dichloromethane and added dropwise to a aqueous sodium hydroxide solution. The water layer is extracted twice with dichloromethane. The solvent is removed and the crude product purified by chromatography on silica gel to give 310 mg of the title compound as a colourless foam.

reactant | (±)-N-{(1RS,2RS,4RS)-4-acetoxy-2-[3-(1,1-difluoro-methoxy)-4-methoxy-phenyl]-cyclohexyl}-terephthalamic acid methyl ester | 500 mg | COC(C1=CC=C(C(=O)NC2C(CC(CC2)OC(C)=O)C2=CC(=C(C=C2)OC)OC(F)F)C=C1)=O | C25H27F2NO7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (±)-4-[(2RS,4aRS,10bRS)-2-Acetoxy-9-(1,1-difluoro-methoxy)-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl]-benzoic acid methyl ester | 310 mg | COC(C1=CC=C(C=C1)C1=NC2CCC(CC2C2=CC(=C(C=C12)OC)OC(F)F)OC(C)=O)=O | C25H25F2NO6
